US08486940B2
5-(2-(4-methoxybenzyl)pyrrolidin-1-yl)-1H-benzo[d]imidazole
The compound was synthesized starting from 5 (6)-bromobenzimidazole (200 mg; 1 mmol; 1 eq.), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (9 mg; 0.024 mmol; 0.024 eq.; 2.4 mol %), Pd2 dba3 (9 mg; 0.01 mmol; 0.01 eq.; 1 mol %) and 2-(4-methoxybenzyl)-pyrrolidine oxalate (337 mg; 1.2 mmol; 1.2 eq.) and lithiumbis(trimethylsilyl)amide (1 M solution in THF; 3.3 ml; 3.3 mmol; 3.3 eq.); yield: 0.06 g (1.9%); MS m/z: 308.2 [M+H]+; HPLC (Gradient 3): rt 14.07 (98.9%)

reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.024 mmol, 9 mg, 0.024 eq. | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 2-(4-methoxybenzyl)-pyrrolidine oxalate | 1.2 mmol, 337 mg, 1.2 eq. | C(C(=O)O)(=O)O.COC1=CC=C(CC2NCCC2)C=C1
reactant | lithiumbis(trimethylsilyl)amide | 3.3 mmol, 1 M, 3.3 ml, 3.3 eq. | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
catalyst | Pd2 dba3 | 0.01 mmol, 9 mg, 0.01 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(2-(4-methoxybenzyl)pyrrolidin-1-yl)-1H-benzo[d]imidazole | COC1=CC=C(CC2N(CCC2)C2=CC3=C(NC=N3)C=C2)C=C1 | C19H21N3O
